US07645789B2
To a solution of 6-fluoro-1,1-dimethyl-7-nitro-2,3-dihydro-1H-pyrrolo[1,2-a]indole (600 mg, 2.4 mmol) in ethanol (15 mL) was added ammonium formate (600 mg, 9.5 mmol) and Pd/C (10%, 129 mg, 0.12 mmol). The mixture was refluxed for 10 min. The Pd catalyst was removed via filtration through Celite and washed with ethanol. The filtrate was concentrated and purified by column chromatography (20-40% ethyl acetate-hexanes) to provide 6-fluoro-1,1-dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-amine (260 mg, 49%). ESI-MS m/z calc. 218.1, found 219.2 (M+1)+. Retention time 1.01 minutes.

reactant | 6-fluoro-1,1-dimethyl-7-nitro-2,3-dihydro-1H-pyrrolo[1,2-a]indole | 2.4 mmol, 600 mg | FC=1C(=CC=2C=C3N(C2C1)CCC3(C)C)[N+](=O)[O-] | C13H13FN2O2
reactant | ammonium formate | 9.5 mmol, 600 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.12 mmol, 129 mg | [Pd] | Pd
product | 6-fluoro-1,1-dimethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-7-amine | 260 mg, 49% | FC=1C(=CC=2C=C3N(C2C1)CCC3(C)C)N | C13H15FN2
